US08729105B2
Preparation of 5-(4-chloro-phenyl)-N-(3-methoxy-isoxazol-5-ylmethyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAS Registry No. 1018782-82-5) and 3-methoxy-5-isoxazolemethanamine hydrochloride as starting materials, LC-MS (UV peak area/ESI) 100%, 442.079 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 3-methoxy-5-isoxazolemethanamine hydrochloride | Cl.COC1=NOC(=C1)CN
product | 5-(4-chloro-phenyl)-N-(3-methoxy-isoxazol-5-ylmethyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=CC(=NO2)OC)C1)OCC(F)(F)F | C19H15ClF3N3O4
